US08314087B2
1-(1-(tert-Butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid.
To a solution of methyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate (3600 mg, 10.6 mmol) in THF (10 mL) and MeOH (5 mL) was added NaOH (3181 μl, 31.8 mmol). The solution was stirred at 23° C. for 48 h and was partitioned between CH2Cl2 and 10% citric acid (aq. pH˜4). The aqueous was extracted with CH2Cl2 (3×50 mL). The combined organics were dried with brine and MgSO4, and concentrated to a yellow solid under reduced pressure. MS (ESI pos. ion) m/z (MH+): 326. Calc'd exact mass for C16H27NO4Si: 325.

reactant | methyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylate | 10.6 mmol, 3600 mg | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)C(=O)OC | C17H29NO4Si
reactant | NaOH | 31.8 mmol, 3181 μl | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(1-(tert-Butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)C(=O)O | C16H27NO4Si
